US07064124B2
N-(6-Chloropyridin-3-yl)-4-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-hydroxybenzamide
2-Chloro-1,3-dimethylimidazolinium chloride (61 mg, 0.361 mmol), 5-amino-2-chloropyridine (46 mg, 0.361 mmol) and triethylamine (36 mg, 0.361 mmol) were added to a methylene chloride solution (3 ml) of 4-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzoic acid (45 mg, 0.120 mmol) in a nitrogen atmosphere and the resulting solution was stirred all the night through. The reaction solution was diluted with chloroform, then washed with water and dried, and the solvent was removed by distillation. The residue was purified by silica gel column chromatography (hexand:ethyl acetate=3:1) to obtain the titled compound (10 mg, 0.021 mmol, 17%).

reactant | 2-Chloro-1,3-dimethylimidazolinium chloride | 0.361 mmol, 61 mg | [Cl-].ClC1[NH+](CCN1C)C
reactant | 5-amino-2-chloropyridine | 0.361 mmol, 46 mg | NC=1C=CC(=NC1)Cl | C5H5ClN2
reactant | triethylamine | 0.361 mmol, 36 mg | C(C)N(CC)CC | C6H15N
reactant | 4-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzoic acid | 0.120 mmol, 45 mg | COC=1C(C(=C(C(C1OC)=O)CC1=CC(=C(C(=O)O)C=C1)OC(C)=O)C)=O | C19H18O8
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
product | N-(6-Chloropyridin-3-yl)-4-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-hydroxybenzamide | 0.021 mmol, 10 mg, 17% | ClC1=CC=C(C=N1)NC(C1=C(C=C(C=C1)CC=1C(C(=C(C(C1C)=O)OC)OC)=O)O)=O | C22H19ClN2O6
